US05831131
Ultrasonic Batch Preparation of Dichloroacetyl Peroxide
A beaker was loaded with 1.25 g of lithium hydroxide monohydrate (30 mmoles), 28 mL of water, 90 mL of Freon® 113, 3.07 mL of 30% aqueous hydrogen peroxide (30 mmoles), and finally 1.64 mL of dichloroacetyl chloride (17 mmoles) with ice bath cooling. An ultrasonic horn connected to a 40 Khz, 150 watt Dukane power source was immediately started up at 75% maximum power and lowered into the reaction mixture. After 15 seconds, the ultrasonic horn was turned off and the reaction mixture poured into a prechilled 250 mL Erlenmeyer flask sitting on dry ice. The reaction mixture was first allowed to freeze solid and then warmed with swirling. As soon as the Freon® 113 phase has thawed entirely to 90 mL of fluid, a 5.0 mL sample was drawn and found to take 4.5 mL of 0.1N sodium thiosulfate in iodometric titration (yield 48% based on starting dichloroacetyl chloride).

reactant | lithium hydroxide monohydrate | 30 mmoles, 1.25 g | O.[OH-].[Li+]
reactant | hydrogen peroxide | 30 mmoles, 3.07 mL | OO | H2O2
reactant | dichloroacetyl chloride | 17 mmoles, 1.64 mL | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | sodium thiosulfate | 0.1N, 4.5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 28 mL | O | H2O
product | Dichloroacetyl Peroxide | yield 48% | ClC(C(=O)OOC(C(Cl)Cl)=O)Cl | C4H2Cl4O4
